US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.50 g, 1.305 mmol) with 3-methylphenylboronic acid (0.266 g, 1.96 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.051 g, 0.065 mmol), and potassium tert-butoxide (0.366 g, 3.26 mmol) generally according to the procedure described for Intermediate 37 provided 0.358 g (70%) of (±)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. mp 98-100° C.; Anal. calcd. for C23H22O4S: C, 70.03; H, 5.62. Found: C, 69.83; H, 5.61.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.305 mmol, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 3-methylphenylboronic acid | 1.96 mmol, 0.266 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | potassium tert-butoxide | 3.26 mmol, 0.366 g | CC(C)([O-])C.[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.065 mmol, 0.051 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.358 g, 70% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C | C23H22O4S
